US08207164B2
m) (5-{3-[(5-Bromo-pyridine-2-carbonyl)-amino]-phenyl}-5-difluoromethyl-5,6-dihydro-2H-[1,4]oxazin-3-yl)-carbamic acid tert-butyl ester
[5-(3-Amino-phenyl)-5-difluoromethyl-5,6-dihydro-2H-[1,4]oxazin-3-yl]-carbamic acid tert-butyl ester and 5-bromo-pyridine-2-carboxylic acid were coupled according the procedure described in example 51m). 1H-NMR (360 MHz, CDCl3): 9.92 (s, 1H, NH), 8.73 (s, 1H), 8.24 (d, 1H), 8.10 (d, 1H), 7.88 (m, 2H), 7.45 (m, 1H), 7.31 (m, 1H), 5.92 (t, 1H, CHF2), 4.84 (d, 1H), 4.65 (d, 1H), 4.31 (d, 1H), 3.96 (d, 1H), 1.52 (s, 9H); MS: 525 [(M+H)+].

reactant | [5-(3-Amino-phenyl)-5-difluoromethyl-5,6-dihydro-2H-[1,4]oxazin-3-yl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC=1COCC(N1)(C(F)F)C1=CC(=CC=C1)N)=O | C16H21F2N3O3
reactant | 5-bromo-pyridine-2-carboxylic acid | BrC=1C=CC(=NC1)C(=O)O | C6H4BrNO2
product | (5-{3-[(5-Bromo-pyridine-2-carbonyl)-amino]-phenyl}-5-difluoromethyl-5,6-dihydro-2H-[1,4]oxazin-3-yl)-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC=1COCC(N1)(C(F)F)C1=CC(=CC=C1)NC(=O)C1=NC=C(C=C1)Br)=O | C22H23BrF2N4O4
